US04544664
4-(2,6-dimethylphenyl)-2-pentanone
To a mixture containing 20 g of CuI and 50 ml of tetrahydrofuran (THF) are added 105 ml of methyllithium dropwise during with agitation in a nitrogen atmosphere at a temperature of 0° C. or lower until the yellow precipitate barely dissolves. Then 8,7 g of 4-(2,6-dimethylphenyl)-3-buten-2-one in 50 ml of THF are added slowly at 0° C. The stirring is continued for an additional 2 h with a gradual increase of the temperature to +25° C. The reaction mixture obtained is hydrolysed with 300 ml of a solution of NH4Cl. The ether layer is removed, dried and evaporated to give the crude product.

reactant | methyllithium | 105 ml | C[Li]
reactant | 4-(2,6-dimethylphenyl)-3-buten-2-one | 8,7 g | CC1=C(C(=CC=C1)C)C=CC(C)=O | C12H14O
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 50 ml | O1CCCC1 | C4H8O
catalyst | CuI | 20 g | [Cu]I
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 4-(2,6-dimethylphenyl)-2-pentanone | CC1=C(C(=CC=C1)C)C(CC(C)=O)C | C13H18O
